US08071609B2
B) (E)-9-(2,6-dimethylstyryl)-2-chloro-N-(4-(dimethylphosphoryl)phenyl)-9H-purin-6-amine
To an oven-dried 50 mL round-bottom flask were added 2-chloro-N-(4-(dimethylphosphoryl)phenyl)-9-vinyl-9H-purin-6-amine (0.32 g, 0.93 mmol), Pd(OAc)2 (10 mg, 0.05 mmol), tri-o-tolylphosphine (30 mg, 0.1 mmol), 2-iodo-m-xylene (0.39 g, 1.67 mmol). The mixture was flushed with Ar and then dissolved in ˜10 mL anhydrous DMF. DIEA (0.39 g, 2.79 mmol) was then added via syringe. The reaction was stirred at 110° C. overnight. The reaction was diluted with EtOAc and filtered through celite, washed with ample ˜5% MeOH/EtOAc, the combined organic layer was washed with water twice, dried over Na2SO4. Final product was purified by silica gel column chromatography (4˜8% MeOH/DCM).

reactant | 2-chloro-N-(4-(dimethylphosphoryl)phenyl)-9-vinyl-9H-purin-6-amine | 0.93 mmol, 0.32 g | ClC1=NC(=C2N=CN(C2=N1)C=C)NC1=CC=C(C=C1)P(=O)(C)C | C15H15ClN5OP
reactant | tri-o-tolylphosphine | 0.1 mmol, 30 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 2-iodo-m-xylene | 1.67 mmol, 0.39 g | IC1=C(C=CC=C1C)C | C8H9I
reactant | DIEA | 2.79 mmol, 0.39 g | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.05 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-9-(2,6-dimethylstyryl)-2-chloro-N-(4-(dimethylphosphoryl)phenyl)-9H-purin-6-amine | CC1=C(/C=C/N2C3=NC(=NC(=C3N=C2)NC2=CC=C(C=C2)P(=O)(C)C)Cl)C(=CC=C1)C | C23H23ClN5OP
